US07465815B2
5-Bromo-3-(4-isopropylphenyl)-2,3-dihydro-1-benzofuran
Using 4-bromo-2-(2-hydroxy-1-(4-isopropylphenyl)ethyl)phenol synthesized in Reference Example 11, the title compound was synthesized in the same manner as in Reference Example 13. Yield 62%. Melting point: 90-91° C. (methanol).

reactant | 4-bromo-2-(2-hydroxy-1-(4-isopropylphenyl)ethyl)phenol | BrC1=CC(=C(C=C1)O)C(CO)C1=CC=C(C=C1)C(C)C | C17H19BrO2
solvent | methanol | CO | CH4O
product | 5-Bromo-3-(4-isopropylphenyl)-2,3-dihydro-1-benzofuran | Yield 62% | BrC=1C=CC2=C(C(CO2)C2=CC=C(C=C2)C(C)C)C1 | C17H17BrO
